US04462821
1-(2-Carboisopropoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide
To a solution of 5.0 g (0.014 mole) of 1-(2-carbomethoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide in 75 ml of isopropyl alcohol was added 1.0 g (0.014 mole) of tert-butylamine and the solution was stirred at room temperature for 16-18 hours. Most of the isopropyl alcohol was removed at reduced pressure, and water was added and the resulting precipitate was collected. The title compound thus produced had a melting point of 115°-117°.

reactant | 1-(2-carbomethoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide | 0.014 mole, 5.0 g | C(=O)(OC)C1=C(C(=O)NN(C(=S)NC2=CC=CC=C2)C)C=CC=C1 | C17H17N3O3S
reactant | tert-butylamine | 0.014 mole, 1.0 g | C(C)(C)(C)N | C4H11N
reactant | isopropyl alcohol | 75 ml | C(C)(C)O | C3H8O
product | 1-(2-Carboisopropoxybenzoyl)-2-methyl-4-phenyl-3-thiosemicarbazide | C(=O)(OC(C)C)C1=C(C(=O)NN(C(=S)NC2=CC=CC=C2)C)C=CC=C1 | C19H21N3O3S
